US20010018423A1
C) Preparation of EtSO2-D-Phe-Pro-OH
To a solution of EtSO2-D-Phe-Pro-OBn (28.5 g, 64 mmol) in ethyl acetate (500 mL) was added 10% Pd/C (5 g). The vessel was evacuated and placed under an atmosphere of hydrogen. After stirring for 16 h, the solution was filtered over diatomaceous earth, and the filter pad was then washed twice with methanol and filtered. The combined filtrates were concentrated in vacuo to give 22 g (97%) of off-white solid.

reactant | EtSO2-D-Phe-Pro-OBn | 64 mmol, 28.5 g | C(C)S(=O)(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C23H28N2O5S
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 5 g | [Pd] | Pd
product | EtSO2-D-Phe-Pro-OH | 22 g, 97% | C(C)S(=O)(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1 | C16H22N2O5S
